US07259271B2
(S)-5-(2-aminoethyl)-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride, compound 2, table 1)
A stirred mixture of (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl amine hydrochloride (0.17 g, 0.79 mmol), [4-(tert-butyldimethylsilanyloxy)-3-oxobutyl]carbamic acid tert-butyl ester (0.28 g, 0.87 mmol), potassium thiocyanate (0.085 g, 0.85 mmol), water (0.014 mL, 0.80 mmol) and acetic acid (0.2 mL, 3.3 mmol) in ethyl acetate (2 mL) was refluxed for 7 hours, cooled to the room temperature, washed by sodium bicarbonate solution and dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by column chromatography on silica using ethyl acetate—petroleum ether mixture as eluent. The resulting oil (0.24 g) was dissolved in ethyl acetate (2 ml), 2M HCl solution in ethyl acetate was added (2 mL, 4 mmol) and the mixture was stirred for 2 hours at room temperature. The precipitate was removed by filtration and washed with ethyl acetate to give crystals, which decomposed without melting.

reactant | (S)-5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl amine hydrochloride | 0.79 mmol, 0.17 g | Cl.FC1=C2CC[C@@H](CC2=CC(=C1)F)N
reactant | [4-(tert-butyldimethylsilanyloxy)-3-oxobutyl]carbamic acid tert-butyl ester | 0.87 mmol, 0.28 g | C(C)(C)(C)OC(NCCC(CO[Si](C)(C)C(C)(C)C)=O)=O | C15H31NO4Si
reactant | potassium thiocyanate | 0.85 mmol, 0.085 g | [S-]C#N.[K+]
reactant | water | 0.80 mmol, 0.014 mL | O | H2O
reactant | acetic acid | 3.3 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | (S)-5-(2-aminoethyl)-1-(5,7-difluoro-1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione hydrochloride | Cl.NCCC1=CNC(N1[C@@H]1CC2=CC(=CC(=C2CC1)F)F)=S | InChI=1S/C15H17F2N3S.ClH/c16-10-5-9-6-11(1-2-13(9)14(17)7-10)20-12(3-4-18)8-19-15(20)21;/h5,7-8,11H,1-4,6,18H2,(H,19,21);1H/t11-;/m0./s1
